US07728025B2
(Step 5) Production of 4-(2-cyano-phenoxy)-5-(6-methanesulfonyl-pyridin-3-yloxy)-benzene-1,2-diamine
20 mg of developed Raney nickel catalyst was added to a methanol (5 ml) solution of 161 mg of 5-(2-cyano-phenoxy)-4-(6-methanesulfonyl-pyridin-3-yloxy)-2-nitro-phenylamine obtained in (step 4), and the reaction liquid was stirred overnight in a hydrogen atmosphere. The catalyst was removed through filtration, and the solvent was evaporated away under reduced pressure to obtain the entitled compound.

reactant | 5-(2-cyano-phenoxy)-4-(6-methanesulfonyl-pyridin-3-yloxy)-2-nitro-phenylamine | 161 mg | C(#N)C1=C(OC=2C(=CC(=C(C2)N)[N+](=O)[O-])OC=2C=NC(=CC2)S(=O)(=O)C)C=CC=C1 | C19H14N4O6S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 20 mg | [Ni] | Ni
solvent | methanol | 5 ml | CO | CH4O
product | 4-(2-cyano-phenoxy)-5-(6-methanesulfonyl-pyridin-3-yloxy)-benzene-1,2-diamine | C(#N)C1=C(OC=2C=C(C(=CC2OC=2C=NC(=CC2)S(=O)(=O)C)N)N)C=CC=C1 | C19H16N4O4S
